US07977477B2
(2-Amino-5-chloro-3-nitro-phenyl)-methanol (0.202 g, 1 mmol) was suspended in a mixture of iso-propanol (5 ml), water (2 ml), methanol (3 ml) and acetic acid (0.05 ml). Raney Nickel (0.015 g, as a slurry in water) was added carefully under nitrogen. The reaction mixture was shaken under a hydrogen atmosphere for 4 h, then diluted with methanol-water (1:1, 50 ml) and filtered to removed catalyst residues. Volatiles were removed in vacuo, and the remaining aqueous layer extracted with ethyl acetate (4×30 ml). The combined organics were washed with brine, dried (MgSO4) and reduced in vacuo to give (2,3-diamino-5-chloro-phenyl)-methanol as an orange solid (0.144 g, 84%). (LC/MS: Rt 0.85, [M+H]+ 173.03).

reactant | (2-Amino-5-chloro-3-nitro-phenyl)-methanol | 1 mmol, 0.202 g | NC1=C(C=C(C=C1[N+](=O)[O-])Cl)CO | C7H7ClN2O3
reactant | methanol | 3 ml | CO | CH4O
reactant | acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
solvent | iso-propanol | 5 ml | C(C)(C)O | C3H8O
catalyst | Raney Nickel | [Ni] | Ni
solvent | water | O | H2O
solvent | methanol water | 50 ml | CO.O
solvent | water | 2 ml | O | H2O
product | (2,3-diamino-5-chloro-phenyl)-methanol | 0.144 g, 84% | NC1=C(C=C(C=C1N)Cl)CO | C7H9ClN2O
